US04997836
In 4.5N HCl-ethyl acetate solution (20 ml) is dissolved methyl 4-tert-butoxycarbonyl-1-(3,4,5-trimethoxybenzyl)piperazine-2-carboxylate (5.0 g) obtained in Reference Example 19, and the solution is left standing at room temperature for 5 hours. The reaction mixture is concentrated under reduced pressure to give crystalline methyl 1-(3,4,5-trimethoxybenzyl)-piperazine-2-carboxylate dihydrochloride (4.3 g). This product is recrystallized from ethanol to afford colorless needles, m.p. 170-175° C.

reactant | methyl 4-tert-butoxycarbonyl-1-(3,4,5-trimethoxybenzyl)piperazine-2-carboxylate | 5.0 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)C(=O)OC | C21H32N2O7
reactant | HCl ethyl acetate | 4.5N, 20 ml | Cl.C(C)(=O)OCC
product | methyl 1-(3,4,5-trimethoxybenzyl)-piperazine-2-carboxylate dihydrochloride | 4.3 g | Cl.Cl.COC=1C=C(CN2C(CNCC2)C(=O)OC)C=C(C1OC)OC | InChI=1S/C16H24N2O5.2ClH/c1-20-13-7-11(8-14(21-2)15(13)22-3)10-18-6-5-17-9-12(18)16(19)23-4;;/h7-8,12,17H,5-6,9-10H2,1-4H3;2*1H
